US07196090B2
Cyclopropyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine
A solution of in 8.61 g (22.6 mmol) of cyclopropyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine in 400 mL of dry THF was cooled in an ice/water bath. To the cooled solution was added dropwise equivalent (22.6 mL, 22.6 mmol) of a 1 M LAH solution in THF. The reaction was stirred cold for 2 hours and then quenched by sequential addition of 0.4 mL water, followed by 1.6 mL of 15% NaOH solution, and finally 0.88 mL of water. The reaction was filtered through Celite and the filter pad was washed well with THF. The THF filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane, washed with a saturated solution of NaCl, and concentrated in vacuo. Stirring the residue with diethyl ether and concentrating the suspension in vacuo gave 8.38 g (97%) of the title compound as a solid: mp 48° C.–50° C. MS (APCI) (m+1)/z 383.4 Analysis calculated for C17H20F2N4SO2: C, 53.39; H, 5.27; N, 14.65. Found: C, 53.44; H, 5.29; N, 14.31.

reactant | cyclopropyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine | 22.6 mmol, 8.61 g | C1(CC1)NC1=NC(=NC=C1C=NC1=C(C(=CC(=C1F)OC)OC)F)SC | C17H18F2N4O2S
reactant | LAH | 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | Cyclopropyl-(5-[(2,6-difluoro-3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl)-amine | 8.38 g, 97% | C1(CC1)NC1=NC(=NC=C1CNC1=C(C(=CC(=C1F)OC)OC)F)SC | C17H20F2N4O2S
